Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
Tagamet / Elavil
 
Attending: ___.
 
Chief Complaint:
mechanical fall 
 
Major Surgical or Invasive Procedure:
Suture of Right eye laceration

 
History of Present Illness:
___, h/o schizotypal p/d, HTN, who is status post mechanical 
fall earlier today. He recall slipping on ice and falling 
between two cars. He had head strike with resultant right face 
laceration above the eye. No loss of consciousness. He also 
complained of left elbow pain. 

 
Past Medical History:
PMH:
Dystimic disorder
glaucoma
bilateral inguinal hernia
CAD 
Hx of A-fib
Bradycardia
hyperlipidemia
IBS
HTN
GAD
sensory neuropathy B12 deficiency associated
cataracts
diplopia

PSH:
Cardiac pacer + ICD
s/p CABG TVD- ___
s/p bilat inguinal hernia repair Lap. ___
s/p mastoidectomy Rt 

 
Social History:
lives alone taken care by his friend and neighbor 
___ wore veteran
 
Physical Exam:
Physical Exam:  
Vitals:  98 58 172/62 16 98% RA 
GEN: A&O, NAD  
HEENT: No scleral icterus, mucus membranes moist; Right
laceration s/p repair in ED above eyebrow
CV: RRR, No M/G/R  
PULM: Clear to auscultation b/l, No W/R/R  
ABD: Soft, nondistended, nontender, no rebound or guarding
Spine: C2 tenderness. Tenderness to left rotation and left
extension. with decrease ROM. FROM with flex/extend right
rotation, right extension. 
Ext: Right elbow abrasion. Left knee abrasion with edema. No ___
edema, ___ warm and well perfused.
Lac on Rt eye lid 

PE on discharge:
Vitals: 98.0 149/74 66 18 100% on RA
General: NAD, hearing difficulty as doesn't have ear piece.
HEENT: EOMI, PERRL, Oral mucosa moist, abrasion on R side of 
face
next to eye socket.
Neck: Supple, no LAD
CV: S1 and S2, irregular rhythm, no MRG
Lungs: CTAB, no wheezes or crackles
Abdomen: Soft, NT, ND
Ext: ___ strength in all extremities, no edema
Neuro: CNII-XII grossly intact

 
Pertinent Results:
___ 06:21AM BLOOD WBC-4.7 RBC-4.12* Hgb-12.9* Hct-38.7* 
MCV-94 MCH-31.3 MCHC-33.3 RDW-13.3 RDWSD-45.4 Plt ___
___ 03:40AM BLOOD Neuts-69.3 Lymphs-16.8* Monos-9.5 Eos-3.5 
Baso-0.5 Im ___ AbsNeut-5.18 AbsLymp-1.26 AbsMono-0.71 
AbsEos-0.26 AbsBaso-0.04
___ 06:21AM BLOOD Glucose-90 UreaN-23* Creat-0.8 Na-137 
K-3.2* Cl-99 HCO3-24 AnGap-17
___ 06:21AM BLOOD Calcium-8.7 Phos-3.0 Mg-1.8

CT C-SPINE W/O CONTRAST    
  
1. Minimal anterolisthesis of the C7 on T1 vertebral bodies and 
irregularity 
of the tips of the facets bilaterally at this level could be 
related to 
multilevel degenerative changes, but no prior exam is available 
for 
comparison. No definite fracture identified. Correlate with 
focal 
tenderness. MR can be obtained if there is concern for 
ligamentous injury. 
2. Possible atlantoaxial rotary subluxation. Correlate with 
patient ability 
to rotate his head. 
3. No prevertebral soft tissue abnormality. 
 

CT HEAD W/O CONTRAST Q111 CT HEAD 
 
  
1. Right parietal mildly hyperdense lesion with surrounding 
edema.  The 
differential diagnosis includes evolving hematoma, metastasis, 
lymphoma or 
glioblastoma.  The hyperdensity centrally argues somewhat 
against an abscess 
2. Right frontal scalp swelling without underlying fracture. 
  
CT HEAD W/ CONTRAST 

Thin rim of peripheral enhancement surrounding the small area of 
central 
hyperdensity within the right parietal lobe may represent a 
subacute/resolving 
intraparenchymal hematoma.  Please note that underlying mass is 
not excluded 
and continued followup will be necessary.  Abscess is also 
possible though 
considered less likely given lack of surrounding edema 

CT ABD/PELV
1. No evidence of malignancy in the abdomen or pelvis. 
2. Cholelithiasis, with no evidence of acute cholecystitis. 
3. Please refer to separate report of CT chest performed on the 
same day for 
description of the thoracic findings. 

CT CHEST
No chest CT findings to suggest metastatic disease.  No acute CT 
findings in the chest. 

 
Brief Hospital Course:
Mr ___ is an ___ yo M  with the PMH as above who fell after 
slipping on ice and having a head strike on car bumper with no 
loss of consciousness. Head CT showed a susp. of ___. As the 
patient could not have MRI d/t the presence of a pacemaker/ICD a 
further workup with CT brain w/ IV contrast was done which 
revealed a sub acute rim enhancing lesion.
Although the etiology of this lesion is currently unclear though 
given recent fall, likely due to this. It may represent a sub 
acute resolving hematoma, or underlying mass or metastasis. The 
patient had a CT chest, abdomen and pelvis which did not 
revealed any suspicious abnormality to account for brain 
metastasis. 
His lab work is currently reassuring with no obvious 
abnormalities as well.

The patient was consulted by general medicine that concluded 
that given this ring enhancing lesion, a likely etiology include 
lymphoma vrs metastasis vs abscess/infection (toxo) which is 
less likely.
 
Neurosurgery service was involved in his care and recommended 
putting the patient on keppra at least until be seen as an out 
patient by Dr ___ in two weeks.

In terms of his trauma: The patient was admitted to the ___ 
service after mechanical fall. His injuries included a minor 
facial laceration which was sutured in the ED, 7th rib Fx on the 
Lt which is well controlled with pain medication and minor 
bruising of his Lt knee.
TTS 24h after his injury was unremarkable with no new injuries 
uncovered.

The patient was evaluated by speech and swallow team after 
complaining of difficulty swallowing and was cleared. 
Physical therapist also evaluated the patient and suggested 
further recovery in a rehab facility. Rehab stay not anticipated 
to exceed 30 days. 

The patient is being discharged to rehab facility for further 
recovery.

 
Medications on Admission:
HCTZ 25'
triamterene 37.5'
metoprolol succinate 25'
aspirin 81'
lisinopril 5
lovastatin
coenzyme Q10
Triamicinolone 55MCG QAM
Colace 100 BID
miralax QD PRN 
sennosides 8.6 QD
 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H  
2.  Aspirin 81 mg PO DAILY  
3.  Bisacodyl 10 mg PO DAILY:PRN constip  
4.  Docusate Sodium 100 mg PO BID  
5.  Lisinopril 5 mg PO DAILY  
6.  Polyethylene Glycol 17 g PO DAILY:PRN constip  
7.  Triamterene-HCTZ (37.5/25) 1 CAP PO DAILY  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
minor head trauma
Left 7th rib Fracture
Right eye brow laceration with stiches
brain lesion

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Mr. ___, it was a pleasure taking care of you in ___ you 
were admitted to the trauma surgery service after sustaining a 
fall Your injury caused Left 7th rib fracture a minor head 
contusion with small Right eye lid laceration. You were given 
pain medication and your breathing was closely watched. A brain 
lesion was noted on a CT scan of your head. The medical team 
evaluated the imagining and will contact your primary care 
provider, Dr. ___ to further discuss need for follow 
up. Please be sure to schedule a follow up appointment with this 
provider after being discharged from rehab.

You were evaluated by physical therapy and we recommend that you 
continue your recovery at rehab. 

You are now doing better and ready to be discharged to rehab. 

Please note the following discharge instructions. 

Your rib Fracture can cause severe pain and subsequently cause 
you to take shallow breaths because of the pain.
* You should take your pain medication as directed to stay ahead 
of the pain otherwise you won't be able to take deep breaths. If 
the pain medication is too sedating take half the dose and 
notify your physician.
* Pneumonia is a complication of rib fractures.  In order to 
decrease your risk you must use your incentive spirometer 4 
times every hour while awake.  This will help expand the small 
airways in your lungs and assist in coughing up secretions that 
pool in the lungs.
* You will be more comfortable if you use a cough pillow to hold 
against your chest and guard your rib cage while coughing and 
deep breathing.
* Symptomatic relief with ice packs or heating pads for short 
periods may ease the pain.
* Narcotic pain medication can cause constipation therefore you 
should take a stool softener twice daily and increase your fluid 
and fiber intake if possible.
* Do NOT smoke
* If your doctor allows, non-steroidal ___ drugs 
are very effective in controlling pain ( ie, Ibuprofen, Motrin, 
Advil, Aleve, Naprosyn) but they have their own set of side 
effects so make sure your doctor approves.
* Return to the Emergency Room right away for any acute 
shortness of breath, increased pain or crackling sensation 
around your ribs (crepitus).
for your head trauma - you had a CT scan of your head that 
showed a mildly hyperdense lesion with surrounding edema in Rt 
parietal lobe without overlying Fx. this lesion was further 
evaluated with CT head with IV contrast that better defined this 
finding as sub acute/resolving  intraparenchymal hematoma but an 
underlying mass was not excluded and a follow-up will be 
necessary 
your eye lid laceration was sutured in the ED and the stiches 
will need to come out in a week.

 
 
Followup Instructions:
___